US06949542B2
(4-Chloro-5-ethoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 4-chloro-5-ethoxy-2-nitro-phenylamine [prepared by stirring commercially available 4,5-dichloro-2-nitro-phenylamine [CAS-No. 6641-64-1], ethanol and KOH in DMSO at 23° C. for 20 days and at 60° C. for 20 h] (7.38 g, 34.7 mmol) and Boc2O (15.61 g, 71.5 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (7.09 g, 66%).

reactant | 4-chloro-5-ethoxy-2-nitro-phenylamine | ClC1=CC(=C(C=C1OCC)N)[N+](=O)[O-] | C8H9ClN2O3
reactant | 4,5-dichloro-2-nitro-phenylamine | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | KOH | [OH-].[K+]
reactant | Boc2O | 71.5 mmol, 15.61 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | (4-Chloro-5-ethoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)Cl)[N+](=O)[O-])=O | C13H17ClN2O5
